US07420001B2
To 4-(3-chloro-propane-1-sulfonylamino)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (246 mg, 0.68 mmol, 1 eq.) in THF (10 mL) cooled to <0° C. was added sodium hydride (60%, 30 mg, 0.75 mmol, 1.1 eq.). The reaction was allowed to slowly warm to room temperature, then transferred to a pressure tube and heated at 74° C. for 16 hours. After work-up and flash column chromatography, 4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester was obtained. Yield: 64%. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.3 (t, J=7.1 Hz, 3 H) 2.5 (m, 2 H) 2.7 (s, 3 H) 3.5 (m, 2 H) 3.7 (dd, J=6.8 Hz, 2 H) 4.4 (q, J=7.1 Hz, 2 H) 7.4 (dd, J=7.8, 0.8 Hz, 1 H) 7.6 (m, 1 H) 7.7 (dd, J=8.3, 0.8 Hz, 1 H).

reactant | 4-(3-chloro-propane-1-sulfonylamino)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 0.68 mmol, 246 mg, 1 eq. | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)NS(=O)(=O)CCCCl | C15H18ClNO5S
reactant | sodium hydride | 0.75 mmol, 30 mg, 1.1 eq. | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(1,1-dioxo-1λ6-isothiazolidin-2-yl)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | Yield: 64% | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)N2S(CCC2)(=O)=O | C15H17NO5S
